US07960552B2
A suspension of 38 g (113 mmol) of methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3-isoquinolinecarboxylate, 23.4 g (170 mmol) of (4-hydroxyphenyl)boronic acid, 6.54 g (5.67 mmol) of tetrakistriphenylphosphine palladium(0) and 200 mL of 2.0 M Na2CO3 (aq) in 700 mL of 1,2-dimethoxyethane was stirred at 50° C. for 90 min. The suspension was filtered through a pad of Celite® and the filter cake was washed with EtOAc. The combined organics were washed with water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and brine before being dried with Na2SO4, filtered and concentrated. Ethyl acetate was added and the mixture was stirred and heated. The mixture was filtered and the concentrated filtrate was purified by silica gel chromatography (eluting with 0-20% acetone in CH2Cl2). Fractions containing the product were combined and concentrated and combined with the solid which had been collected by filtration to give 14.50 g (46%) of methyl 7-(4-hydroxyphenyl)-3-isoquinolinecarboxylate. 1H NMR (400 MHz, DMSO-d6): δ 9.75 (s, 1H), 9.38 (s, 1H), 8.42 (s, 1H), 8.23 (s, 1H), 8.21 (d, J=8 Hz, 1H), 8.15 (d, J=8 Hz, 1H), 7.72 (d, J=9 Hz, 2H), 6.91 (d, J=9 Hz, 2H), 3.91 (s, 3H). ESI-LCMS m/z 280 (M+H)+.

reactant | methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3-isoquinolinecarboxylate | 113 mmol, 38 g | FC(S(=O)(=O)OC1=CC=C2C=C(N=CC2=C1)C(=O)OC)(F)F | C12H8F3NO5S
reactant | (4-hydroxyphenyl)boronic acid | 170 mmol, 23.4 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | Na2CO3 | 2.0 M, 200 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 700 mL | COCCOC | C4H10O2
product | methyl 7-(4-hydroxyphenyl)-3-isoquinolinecarboxylate | 14.50 g, 46% | OC1=CC=C(C=C1)C1=CC=C2C=C(N=CC2=C1)C(=O)OC | C17H13NO3
